US07452892B2
B. Preparation of 7,8-bis(4-chlorophenyl)-5-(isopropylamino)-2-methyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a mixture of crude 7,8-bis(4-chlorophenyl)-5-(isopropylamino)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one, DMF (0.7 mL), and potassium carbonate (21 mg, 0.15 mmol) was added methyl iodide (213 mg, 1.5 mmol). The resulting reaction mixture was stirred at room temperature for 3 h. The reaction mixture was then diluted with EtOAc, washed with water and saturated aqueous NaCl, dried (Na2SO4), and concentrated at reduced pressure. The residue was purified by preparative reverse phase HPLC to obtain 14 mg (65% over two steps) of the title compound as a light yellow solid. HPLC/MS: retention time=4.54 min, [M+H]30 =428.

reactant | 7,8-bis(4-chlorophenyl)-5-(isopropylamino)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)NC(C)C)C(NN2)=O)C2=CC=C(C=C2)Cl | C20H17Cl2N5O
reactant | DMF | 0.7 mL | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 0.15 mmol, 21 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.5 mmol, 213 mg | CI | CH3I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7,8-bis(4-chlorophenyl)-5-(isopropylamino)-2-methyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)NC(C)C)C(N(N2)C)=O)C2=CC=C(C=C2)Cl | C21H19Cl2N5O
